US08053440B2
To a solution of 2-amino-4,6-dimethoxy-benzamide (150 mg, 0.76 mmol) and 4-(4-ethyl piperazin-1-ylmethyl)benzaldehyde (177 mg, 0.76 mmol) in N,N-dimethyl acetamide (10 mL), NaHSO3 (150 mg, 0.84 mmol) and p-TSA (319 mg, 1.68 mmol) were added and the reaction mixture was heated at 150° C. for 5 h. The reaction mixture was cooled to room temperature, water was added and the mixture was neutralized with NaHCO3. The solvent was removed under reduced pressure to give the crude product, which was purified by column chromatography to give 2-(4-((4-ethylpiperazin-1-yl)methyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (87 mg, 27%), which was converted to the hydrochloride salt. Selected data: MS (ES) m/z: 409.11; MP 278-280° C. (at decomposition).

reactant | 2-amino-4,6-dimethoxy-benzamide | 0.76 mmol, 150 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(4-ethyl piperazin-1-ylmethyl)benzaldehyde | 0.76 mmol, 177 mg | C(C)N1CCN(CC1)CC1=CC=C(C=O)C=C1 | C14H20N2O
reactant | NaHSO3 | 0.84 mmol, 150 mg | OS(=O)[O-].[Na+]
reactant | p-TSA | 1.68 mmol, 319 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2-(4-((4-ethylpiperazin-1-yl)methyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 87 mg, 27% | C(C)N1CCN(CC1)CC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C23H28N4O3
